US06339093B1
2-[4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-2-ylamino]-ethanol hydrochloride
The title compound, MS: m/e=320.3 (M+H+), was prepared from 2-chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline and ethanolamine.

reactant | 2-chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline | ClC1=NC2=CC=CC=C2C(=C1)N1CC2=CC=CC=C2CC1 | C18H15ClN2
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-2-ylamino]-ethanol hydrochloride | Cl.C1N(CCC2=CC=CC=C12)C1=CC(=NC2=CC=CC=C12)NCCO | InChI=1S/C20H21N3O.ClH/c24-12-10-21-20-13-19(17-7-3-4-8-18(17)22-20)23-11-9-15-5-1-2-6-16(15)14-23;/h1-8,13,24H,9-12,14H2,(H,21,22);1H
